US07498356B2
Step 2. 4-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-dibenzofuran
4-(3-Bromo-phenyl)-dibenzofuran (5.76 g, 17.8 mmol), bis(pinacolato)diboron (5.43 g, 21.4 mmol), Pd(dppf)Cl2.CH2Cl2 (0.582 g, 4% mol) and 1,1′-bis(diphenylphosphino)ferrocene (0.395 g, 4% mol) were dissolved with heating in 100 ml 1,4-dioxane and then treated with KOAc (5.25 g, 53.5 mmol). The reaction mixture was stirred at reflux for 16 hr., cooled to ambient temperature and diluted with ethyl acetate. The organic layer was washed sequentially with 2% HCl and sat. NaCl., dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography with 2-10% ethyl acetate in heptane as eluent to yield the titled compound as a white solid (4.81 g, 73% yield).

reactant | 4-(3-Bromo-phenyl)-dibenzofuran | 17.8 mmol, 5.76 g | BrC=1C=C(C=CC1)C1=CC=CC2=C1OC1=C2C=CC=C1 | C18H11BrO
reactant | bis(pinacolato)diboron | 21.4 mmol, 5.43 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | CH2Cl2 | 0.582 g | C(Cl)Cl | CH2Cl2
reactant | KOAc | 53.5 mmol, 5.25 g | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.395 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-dibenzofuran | 4.81 g, 73% yield | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C1=CC=CC2=C1OC1=C2C=CC=C1)C | C24H23BO3
